US07666901B2
Preparation of (1E,4S,4aR,5R,6aS,7S,9aR)-7,11-dihydroxy-4-(methoxymethyl)-4a,6a-dimethyl-2,10-dioxo-1-(Pyrrolidin-1-ylmethylene)-1,2,4,4a,5,6,6a,7,8,9,9a,10-dodecahydroindeno[4,5-h]isochromen-5-yl acetate
To a solution of 50 mg (0.116 mmol) 17-hydroxywortmannin in 1 mL methylene chloride (CH2Cl2) is added 12.1 mL (0.145 mmol) pyrrolidine. The reaction mixture is stirred at room temperature for 2 hours and then concentrated in vacuo. The residue is dissolved in EtOAc and precipitated with hexane. The precipitate is washed two times with hexane to give 40 mg (68.7%) product as a yellow solid. HRMS (ESI) m/z calcd for C27 H35NO8 501.2364, found: 502.24250 (M+H)+1.

reactant | 17-hydroxywortmannin | 0.116 mmol, 50 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CC[C@@H]2O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H26O8
reactant | pyrrolidine | 0.145 mmol, 12.1 mL | N1CCCC1 | C4H9N
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | (1E,4S,4aR,5R,6aS,7S,9aR)-7,11-dihydroxy-4-(methoxymethyl)-4a,6a-dimethyl-2,10-dioxo-1-(Pyrrolidin-1-ylmethylene)-1,2,4,4a,5,6,6a,7,8,9,9a,10-dodecahydroindeno[4,5-h]isochromen-5-yl acetate | 40 mg, 68.7% | C(C)(=O)O[C@@H]1C[C@@]2([C@H](CC[C@H]2C=2C(C(=C3\C(\C(O[C@@H]([C@@]3(C21)C)COC)=O)=C/N2CCCC2)O)=O)O)C | C27H35NO8
